US08071592B2
(g) 1-[2-(4-Amino-1-piperidinyl)ethyl]-2-oxo-1,2-dihydro-7-quinolinecarbonitrile
To a solution of 1,1-dimethylethyl {1-[2-(7-cyano-2-oxo-1(2H)-quinolinyl)ethyl]-4-piperidinyl}carbamate (1.1 g, 2.8 mmol) in chloroform (15 ml) was added 4N HCl in 1,4-dioxane (15 ml) and the reaction stirred at rt for 45 mins. Toluene was then added and the solution was evaporated, dissolved in MeOH and treated with Amberlyst A21 basic resin for 30 m until pH of the solution is basic. The resine was filtered off and the solvent removed; the residue was subjected to column chromatography on silica gel eluting with 0-15% 2M ammonia in methanol-DCM to afford the desired compound (0.82 g, 99%).

reactant | 1,1-dimethylethyl {1-[2-(7-cyano-2-oxo-1(2H)-quinolinyl)ethyl]-4-piperidinyl}carbamate | 2.8 mmol, 1.1 g | C(#N)C1=CC=C2C=CC(N(C2=C1)CCN1CCC(CC1)NC(OC(C)(C)C)=O)=O | C22H28N4O3
reactant | HCl | 4N | Cl | ClH
reactant | Toluene | C1(=CC=CC=C1)C | C7H8
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
solvent | 1,4-dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | 1-[2-(4-Amino-1-piperidinyl)ethyl]-2-oxo-1,2-dihydro-7-quinolinecarbonitrile | 0.82 g, 99% | NC1CCN(CC1)CCN1C(C=CC2=CC=C(C=C12)C#N)=O | C17H20N4O
